US07576063B2
3-Benzyloxy-5-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-5-formyl-1-isopropyl-1H-pyrazole
To a solution of 3-benzyloxy-5-(2,3-dihydrobenzo-[1,4]dioxin-6-yl)-1-isopropyl-1H-pyrazole (1.8 g) in N,N-dimethylformamide (3 mL) was added phosphorus oxychloride (0.97 g) at 80° C., and the mixture was stirred at 80° C. for 2 hours. After the reaction mixture was cooled to room temperature, a sodium hydroxide aqueous solution (2 mol/L, 10 mL) was added to the reaction mixture. The mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent:hexane/dichloromethane=1/4-dichloromethane) to give the title compound (0.86 g).

reactant | 3-benzyloxy-5-(2,3-dihydrobenzo-[1,4]dioxin-6-yl)-1-isopropyl-1H-pyrazole | 1.8 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C1=CC2=C(OCCO2)C=C1)C(C)C | C21H22N2O3
reactant | phosphorus oxychloride | 0.97 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 2 mol/L, 10 mL | [OH-].[Na+]
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-5-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-5-formyl-1-isopropyl-1H-pyrazole | 0.86 g | C(C1=CC=CC=C1)OC=1NN(C(C1)(C=O)C1=CC2=C(OCCO2)C=C1)C(C)C | C22H24N2O4
